datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[C:5]([C:6]([H:14])([H:15])[H:16])([H:13])[C:18]([C:17]([H:20])([H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:9])([H:7])[H:8],3.84928
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:30])([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[O:33]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:31])[H:32])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:11])[H:12].[H:30][O:33],11.572944
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[O:18]>>[C:0]([C:1]1([C:2]([H:9])([H:10])[H:11])[C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:18]1)([H:6])([H:7])[H:8],0.0
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O:5][C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[O:5][H:19])[H:9])([H:7])[H:8].[C:6]([H:16])([H:17])[H:18],102.846
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](#[C:15][C:16]([H:18])[H:19])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:16]([C:15]#[C:14][H:17])([H:18])[H:19])[H:6],47.3629
[C:0]([S:1][S:2][H:6])([H:3])([H:4])[H:5].[S:7][H:8]>>[C:0]([H:3])([H:4])[H:5].[S:1]([S:2][H:6])[S:7][H:8],53.9736
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])[H:8])([H:6])[H:7],28.6604
[C:0]1([H:5])[C:1]([H:6])=[C:2]([H:7])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11].[O:12][H:13]>>[C:0]1([H:5])=[C:4]([H:11])[C:3]([H:8])([H:9])[C:2]([H:7])=[C:1]1[H:6].[H:10][O:12][H:13],0.0
[C:0]([C:1]([C:2]([C:3]([O:4][O:5])([H:14])[H:15])([H:12])[H:13])([O:6][O:7][H:16])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:11])([H:14])[H:15])([H:12])[H:13])[O:6][O:7][H:16])([H:8])([H:9])[H:10],71.128
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20](=[C:19]([H:24])[H:25])[H:26])([C:22]([H:27])([H:28])[H:29])[C:23]([H:30])([H:31])[H:32])[H:9],41.4634
[C:0](=[C:1]=[C:2][C:3]([H:6])([H:7])[H:8])([H:4])[H:5]>>[C:0](=[C:1]=[C:2]=[C:3]([H:7])[H:8])([H:4])[H:5].[H:6],234.546672
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])=[C:6]([C:7]([H:20])([H:21])[H:22])[H:19])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([C:5]([H:16])([H:17])[H:18])[C:6]1([C:7]([H:20])([H:21])[H:22])[H:19])([H:8])([H:9])[H:10],67.4879
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:22][O:30][O:31],199.11656
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[S:8]=[C:9][S:10][H:11]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9](=[S:8])[S:10][H:11],28.0328
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])([H:5])[H:6].[C:13](=[O:14])[H:15]>>[C-:13]#[O+:14].[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:7])[H:15])([H:4])([H:5])[H:6],0.0
[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[O:13][O:14]>>[H:7][O:13][O:14].[O:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],173.221784
[C:0](#[C:1][H:3])[H:2].[c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14]>>[C:0](=[C:1][H:3])([H:2])[c:4]1[c:5]([H:10])[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]1[H:14],2.34304
